US09255093B2
To a 0-5° C. solution of 2-hydroxy-4-methylbenzaldehyde (15 g, 110 mmol) in 250 mL of DCM was added TEA (30.7 ml, 220 mmol) followed by dropwise addition of acetyl chloride (8.65 g, 110 mmol) over 15 min. The reaction was stirred at 0-5° C. for 30 min. The reaction mixture was concentrated under reduced pressure. To this residue 100 mL of 1N HCl was added. The crude mixture was extracted with EtOAc×2. The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure to give a yellow oil, 2-formyl-5-methylphenyl acetate (18 g). 1H NMR (400 MHz, DMSO-d6) δ 2.34 (s, 3H), 2.40 (s, 3H), 7.13 (s, 1H), 7.31 (d, J=7.6 Hz, 1H), 7.80 (d, J=7.8 Hz, 1H), 10.01 (s, 1H).

reactant | 2-hydroxy-4-methylbenzaldehyde | 110 mmol, 15 g | OC1=C(C=O)C=CC(=C1)C | C8H8O2
reactant | acetyl chloride | 110 mmol, 8.65 g | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | 2-formyl-5-methylphenyl acetate | 18 g | C(C)(=O)OC1=C(C=CC(=C1)C)C=O | C10H10O3
